US07402581B2
tert-Butyl[(2S)-2-(4-fluorophenyl)-4-(3-morpholin-4-ylazetidin-1-yl)butyl]-methylcarbamate (0.44 g, 1.04 mmol) was dissolved in a HCl-saturated solution of ethyl acetate. The mixture was stirred at room temperature for 1 h and then the solvent was removed by evaporation. There was obtained 450 mg of [(2S)-2-(4-fluorophenyl)-4-(3-morpholin-4-ylazetidin-1-yl)butyl]methylamine dihydrochloride as a foam. 1H NMR (500 MHz, CD3OD): 2.0 (m, 1H), 2.2 (m, 1H), 2.7 (s, 3H), 3.0-5.0 (cm, 18H), 7.2 (t, 2H), 7.5 (t, 2H); LCMS: m/z 322 (M+1)+.

reactant | tert-Butyl[(2S)-2-(4-fluorophenyl)-4-(3-morpholin-4-ylazetidin-1-yl)butyl]-methylcarbamate | 1.04 mmol, 0.44 g | C(C)(C)(C)OC(N(C)C[C@@H](CCN1CC(C1)N1CCOCC1)C1=CC=C(C=C1)F)=O | C23H36FN3O3
reactant | HCl | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [(2S)-2-(4-fluorophenyl)-4-(3-morpholin-4-ylazetidin-1-yl)butyl]methylamine dihydrochloride | 450 mg | Cl.Cl.FC1=CC=C(C=C1)[C@@H](CNC)CCN1CC(C1)N1CCOCC1 | InChI=1S/C18H28FN3O.2ClH/c1-20-12-16(15-2-4-17(19)5-3-15)6-7-21-13-18(14-21)22-8-10-23-11-9-22;;/h2-5,16,18,20H,6-14H2,1H3;2*1H/t16-;;/m1../s1
